US06579882B2
2-bromo-4-[(4-methylphenyl)thio]thieno[3,2-c]pyridine
Para-thiocresol (500 mg, 4 mmol) in DMF (10 mL) was treated with potassium t-butoxide (451 mg, 4 mmol) at room temperature, after 15 minutes cooled to 0° C., treated with 2-bromo-4-chlorothieno[3,2-c]pyridine (prepared in 6 steps according to the method of F. Eloy and A. Deryckere (Bull. Soc. Chim. Belg. 1970, 79,301) (1.0 g, 4.0 mmol), stirred at 0° C. for 2 hours and at room temperature for 12 hours, poured into water and extracted with diethyl ether. The extract was washed with water, dried (Na2SO4), and concentrated under vacuum. The residue was purified by flash chromatography on silica gel with 1:20 ethyl acetate-hexane to provide the title compound.

reactant | potassium t-butoxide | 4 mmol, 451 mg | CC(C)([O-])C.[K+]
reactant | 2-bromo-4-chlorothieno[3,2-c]pyridine | BrC1=CC=2C(=NC=CC2S1)Cl | C7H3BrClNS
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-bromo-4-[(4-methylphenyl)thio]thieno[3,2-c]pyridine | BrC1=CC=2C(=NC=CC2S1)SC1=CC=C(C=C1)C | C14H10BrNS2
